US07816401B2
(1-2) Synthesis of ethyl-(2E)-3-methyl-5-[(1-phenyl-1-H-tetrazol-5-yl)thio]pent-2-enoate (Q1b)
This reaction was performed with reference to the literature (Mitsunobu, O., Synthesis, 1981, 1-28.). 5-Mercapto-1-phenyltetrazole (16.30 g, 91.20 mmol), triphenylphosphine (27.30 g, 104 mmol) and diisopropyl azodicarboxylate (95%, 21.10 g, 104 mmol) were added to a THF (410 ml) solution of ethyl-(2E)-5-hydroxy-3-methylpent-2-enoate (13.80 g, 86.90 mmol) while ice cooling. The reaction solution was warmed to room temperature and stirred for four hours. After the reaction solution was diluted with ethyl acetate, it was washed with distilled water and brine. After the organic layer was dried over anhydrous sodium sulfate and the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; hexane:ethyl acetate=5:1) to obtain the title compound (27.16 g) as a white solid.

reactant | 5-Mercapto-1-phenyltetrazole | 91.20 mmol, 16.30 g | SC1=NN=NN1C1=CC=CC=C1 | C7H6N4S
reactant | triphenylphosphine | 104 mmol, 27.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 104 mmol, 21.10 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | ethyl-(2E)-5-hydroxy-3-methylpent-2-enoate | 86.90 mmol, 13.80 g | C(C)OC(\C=C(\CCO)/C)=O | C8H14O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 410 ml | C1CCOC1 | C4H8O
product | ethyl-(2E)-3-methyl-5-[(1-phenyl-1-H-tetrazol-5-yl)thio]pent-2-enoate | 27.16 g | C(C)OC(\C=C(\CCSC1=NN=NN1C1=CC=CC=C1)/C)=O | C15H18N4O2S
